US04839369
5-[3-(4-(2-Quinolylmethyloxy)phenoxy)propyl]tetrazole
A mixture of 8.0 g of 4-[4-(2-quinolylmethyloxy)phenoxy]butyronitrile, 4.9 g of sodium azide and 4.0 g of ammonium chloride was heated with 25 ml of dry dimethylformamide at 140° C. for 20 hours. The reaction mixture was poured into ice, basified in 1N sodium hydroxide and extracted 2 times with warm ethyl acetate. The aqueous fraction was acidified with acetic acid. The product was filtered and washed with water to give 6.6 g of crude product. Crystallization from ethyl acetate gave 4.2 g of the light tan product, m.p. 158°-160° C.

reactant | 4-[4-(2-quinolylmethyloxy)phenoxy]butyronitrile | 8.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(OCCCC#N)C=C1 | C20H18N2O2
reactant | sodium azide | 4.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.0 g | [Cl-].[NH4+]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 5-[3-(4-(2-Quinolylmethyloxy)phenoxy)propyl]tetrazole | 4.2 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(OCCCC2=NN=NN2)C=C1 | C20H19N5O2
